US06903118B1
b) 2-(3,4-epoxybutyl)-isoindolin-1,3-dione
70 g (350 mmol) 2-(but-3-enyl)-isoindolin-1,3-dione are dissolved in dichloromethane. The solution is cooled to ca. 0° C. and a suspension of 120.8 g (350 mmol) 50% 3-chloro-peroxy-benzoic acid in dichloromethane is added under cooling. The mixture is left standing without further cooling at room temperature for two days. After addition of 250 ml saturated NaHCO3 solution the organic phase is separated and washed three times each with 200 ml saturated NaHCO3 solution and once with water. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum: yield 80 g.

reactant | 2-(but-3-enyl)-isoindolin-1,3-dione | 350 mmol, 70 g | C(CC=C)N1C(C2=CC=CC=C2C1=O)=O | C12H11NO2
reactant | 3-chloro-peroxy-benzoic acid | 350 mmol, 120.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | NaHCO3 | 250 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(3,4-epoxybutyl)-isoindolin-1,3-dione | O1C(CCN2C(C3=CC=CC=C3C2=O)=O)C1 | C12H11NO3
